US04536601
L-phenylalaninol (31.3 g) was dissolved in a mixture of acetone (23 ml) and ethanol (120 ml). The solution was shaken in an atmosphere of hydrogen in the presence of platinum oxide (0.1 g) until the calculated amount of hydrogen was absorbed. The catalyst was filtered off and the filtrate was concentrated to dryness under reduced pressure to give N-isopropyl-L-phenylalaninol (40 g), mp 65°-66° C., [α]D -5.4°.

reactant | L-phenylalaninol | 31.3 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | hydrogen | [H][H] | H2
reactant | acetone | 23 ml | CC(=O)C | C3H6O
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | N-isopropyl-L-phenylalaninol | 40 g | C(C)(C)N[C@@H](CC1=CC=CC=C1)CO | C12H19NO
